US07411095B2
N,N-Bis(2-methylpropyl)-pentanylamine
To a suspension of magnesium sulfate (10.1 g) in diisobutylamine (72.0 g) was added dropwise valeraldehyde (24.6 g) at 0-5° C. under a nitrogen atmosphere, and it was stirred at 10-15° C. for 1 hour. After ice-cooling, water (60 ml) was added and it was stirred to dissolve the magnesium sulfate. After the removal of the aqueous layer, to the organic layer obtained was added a 9% (w/v) aqueous acetic acid solution (200 ml) at 0-5° C. and then stirred for 5 minutes. The aqueous layer was, then, removed again, a 0.5% (w/v) aqueous sodium hydroxide solution (60 ml) was added to the organic layer at 0-5° C., and stirred for 5 minutes. After stirring, the aqueous layer was removed to afford the title compound (51.3 g, yield: 80%, purity: 93.8%) as a colorless oil.

reactant | magnesium sulfate | 10.1 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | valeraldehyde | 24.6 g | C(CCCC)=O | C5H10O
reactant | water | 60 ml | O | H2O
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
reactant | diisobutylamine | 72.0 g | C(C(C)C)NCC(C)C | C8H19N
product | N,N-Bis(2-methylpropyl)-pentanylamine | 51.3 g, yield: 80% | CC(CN(CC(C)C)CCCCC)C | C13H29N
